US08486967B2
a) tert-Butyl 1-(6-methylpyridazin-4-yl)piperidin-4-ylcarbamate
To a mixture of 5-chloro-3-methylpyridazine (1.3 g, 10.1 mmol) and Boc-4-aminopiperidine (2.63 g, 13.1 mmol) in NMP (13 mL) was added DIPEA (2.47 mL, 14.2 mmol). Argon was bubbled through the cloudy solution for 5 minutes before the reaction mixture was heated in the microwave for 30 minutes to 150° C. The mixture was then poured into water and extracted with ethyl acetate. The combined organic phases were dried over sodium sulfate, filtered and evaporated. Purification by chromatography (silica gel, 50 g, 50 to 100% ethyl acetate in heptane) afforded the title compound (2.18 g, 74%) as an off white solid.

reactant | 5-chloro-3-methylpyridazine | 10.1 mmol, 1.3 g | ClC=1C=C(N=NC1)C | C5H5ClN2
reactant | Boc-4-aminopiperidine | 13.1 mmol, 2.63 g | C(=O)(OC(C)(C)C)N1CCC(CC1)N | C10H20N2O2
reactant | DIPEA | 14.2 mmol, 2.47 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | NMP | 13 mL | CN1CCCC1=O | C5H9NO
product | tert-Butyl 1-(6-methylpyridazin-4-yl)piperidin-4-ylcarbamate | 2.18 g, 74% | CC1=CC(=CN=N1)N1CCC(CC1)NC(OC(C)(C)C)=O | C15H24N4O2
